US06660744B1
To a solution of 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.05 g, 0.00014 mol) was added (R)-(+)-glycidol (0.05 M in isopropanol, 2.8 mL, 0.00014 mol) at room temperature under an atmosphere of nitrogen. The mixture was stirred at 80° C. for three hours. The solvent was removed under reduced pressure. The residue was purified by flash chromatography on silica gel using ammonium hydroxide/methanol/dichloromethane (2:7:91) followed by ammonium hydroxide/methanol/dichloromethane (2:10:88) as mobile phase to yield (2S)-3-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}propane-1,2-diol (0.023 g, 0.000053 mol).

reactant | 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00014 mol, 0.05 g | N1CC(C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H18N6O
reactant | (R)-(+)-glycidol | 0.00014 mol, 0.05 M, 2.8 mL | C1[C@H](O1)CO | C3H6O2
product | (2S)-3-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}propane-1,2-diol | 0.000053 mol, 0.023 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(C2)C[C@@H](CO)O | C23H24N6O3
